US07538233B2
[3-(5-Chloro-2-oxo-2H-1-benzopyran-4-yloxy)-propyl]-carbamic acid tert-butyl ester
A solution of triphenylphosphine (0.438 g, 1.67 mmol) in 10 mL of THF is cooled to −78° C. and DIAD (0.430 g) is added in one portion. (3-Hydroxy-propyl)-carbamic acid tert-butyl ester (560 mg, 1.3 eq) in 1 mL of THF is added and the solution is allowed to warm to room temperature over the course of 1 hr. The yellow solution is treated with 5-chloro-4-hydroxycoumarin (0.300 g, 1.5 mmol) and is stirred at ambient temperature for 3.5 hrs. The solvent is removed under reduced pressure and the crude product is purified using an ISCO 4 g SiO2 column eluting with ether/heptane gradient to afford the title compound (0.106 g, 20%). 1H NMR (CDCl3, 300 MHz) δ 7.27 (3H, m), 5.71 (1H, s), 4.73 (1H, brs), 4.17 (2H, t, J=5.75 Hz), 3.41 (2H, q, J=6.5 Hz), 2.13 (2H, m), 1.43 (9H, s); MS (ESI, Pos.) calcd for C17H20ClNO5 m/z [M+H+Na]=376.1, found 376.1.

reactant | triphenylphosphine | 1.67 mmol, 0.438 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 0.430 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | (3-Hydroxy-propyl)-carbamic acid tert-butyl ester | 560 mg, 1.3 eq | C(C)(C)(C)OC(NCCCO)=O | C8H17NO3
reactant | 5-chloro-4-hydroxycoumarin | 1.5 mmol, 0.300 g | ClC1=C2C(=CC(OC2=CC=C1)=O)O | C9H5ClO3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | [3-(5-Chloro-2-oxo-2H-1-benzopyran-4-yloxy)-propyl]-carbamic acid tert-butyl ester | 0.106 g, 20% | C(C)(C)(C)OC(NCCCOC1=CC(OC2=C1C(=CC=C2)Cl)=O)=O | C17H20ClNO5
